data/specific_train_final.csv
"[CH3:13][C:12]1([CH:9]2[CH2:8][CH2:7][C:6]([CH:11]1[CH2:10]2)([CH2:15][OH:16])[O:5][O:4][O:3][N+:2](=[O:1])[O-:17])[CH3:14]>>[CH3:13][C:12]1([CH:9]2[CH2:8][CH2:7][C:6]([CH:11]1[CH2:10]2)([CH2:15][OH:16])[O:5][O:4][O:3])[CH3:14].[N+:2](=[O:1])[O-:17] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCC12C(C=CC(C1O)(OO2)C)O[O:10]>>[H:20][O:10]OC1C=CC2(C(C1(OO2)CC)O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(C)C[CH2:20].[O:10][O]>>CC(C)(C)C[CH2:20][O:10][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(CC2C1CCC(C(CCC2=C)O)(C)O[O:20])C.[N:10]=O>>CC1(CC2C1CCC(C(CCC2=C)O)(C)O[O:20][N:10]=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC([CH:10]C)O[N+](=O)[O-].[O:20][O]>>CCC([CH:10](C)[O:20][O])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1[CH:10]O1.[O:20][O]>>C1[CH:10](O1)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1CCC(C(C1)O)OO[O:20][N+:21](=O)[O-]>>C1CCC(C(C1)O)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:5][CH2:4][CH2:3][C:2](=[O:1])[CH:6]=[CH:7][CH:8]1[CH:10]([O:9]1)[CH:11]=[O:12].[OH:13]>>[CH3:5][CH2:4][CH2:3][C:2](=[O:1])[CH:6][CH:7]([CH:8]1[CH:10]([O:9]1)[CH:11]=[O:12])[OH:13] 13-13,7; 6,7-13,7; 6,7-6",Room Temperature,Propagation,addition
"CC1(C2CCC(C1C2)(C[O:20][O:21]N=O)O[N+](=O)[O-])C>>CC1(C2CCC(C1C2)(C[O:20])O[N+](=O)[O-])C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"c1ccccc1[C](=O)[O:10][O:20][O].[N+]([O-])=O>>c1ccccc1[C](=O)[O:10].[O:20][O].[N+]([O-])=O 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
"[H:20][CH2:21]C(Cl)Cl.[OH:10]>>[H:20][OH:10].[CH2:21]C(Cl)Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(COO[O:20][N+:21](=O)[O-])O>>CCCC(COO[O:20])O.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=C(C(=CC=C1)C[O:20][O:21]N=O)C>>CC1=C(C(=CC=C1)C[O:20])C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(COC(=O)C)[O:20][O:21][O].[N+](=O)[O-]>>CC(COC(=O)C)[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:1][CH:2]([CH:3]([O:4][CH3:5])[O:6][O:7][O:8][N+:9](=[O:10])[O-:11])[OH:12]>>[CH3:1][CH:2]([CH:3]([O:4][CH3:5])[O:6][O:7][O:8])[OH:12].[N+:9](=[O:10])[O-:11] 8,9-8; 8,9-9",Room Temperature,Initiation,homolyze
"CC(C)C(C[O:21][O:20][O])O>>CC(C)C(C[O:21])O.[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(C[O:21][O:20][O])O>>CC(C)(C[O:21])O.[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCC(C(C)C)O[O:10]>>[H:20][O:10]OC(CC)C(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC12C=CC(C(C1O)OO2)[O:20].[N+:10](=O)[O-]>>CC12C=CC(C(C1O)OO2)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:10][C:9]([CH3:11])([C:6]([CH3:7])([CH3:8])[O:5][O:4][O:3][N+:2](=[O:1])[O-:13])[OH:12]>>[CH3:10][C:9]([CH3:11])([C:6]([CH3:7])([CH3:8])[O:5][O:4][O:3])[OH:12].[N+:2](=[O:1])[O-:13] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CCC[CH:21]=[CH2:20].[N+](=O)([O-])[O:10]>>CCC[CH:21][CH2:20][O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCC[CH:10]C(C)O[N+](=O)[O-].[O:20][O]>>CCC[CH:10](C(C)O[N+](=O)[O-])[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](=O)C1(C(O1)C(=CC(=O)CC)C)C.[OH:10]>>[H:20][OH:10].CCC(=O)C=C(C)C1C(O1)(C)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)C12C=CC(C(C1O)OO2)[O:20][O:21]N=O>>CC(C)C12C=CC(C(C1O)OO2)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(=O)O[O:20].[N+](=O)([O-])[O:10]>>CCCC(=O)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)CC(C)O[O:20].[N:10]=O>>CC(C)CC(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(COO[O:20][N+:21](=O)[O-])OC(=O)C>>CC(COO[O:20])OC(=O)C.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CO[O:20])O.[N+](=O)([O-])[O:10]>>CC(CO[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCCCCC(CC)[O:20].[N+:10](=O)[O-]>>CCCCCCCC(CC)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:10]OOS(=O)[O:20]>>[CH2:10]1OOS(=O)[O:20]1 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][CH:2]([CH3:3])[CH2:4][CH:5]([CH3:6])[O:7][O:8][O:9][N+:10](=[O:11])[O-:12]>>[CH3:1][CH:2]([CH3:3])[CH2:4][CH:5]([CH3:6])[O:7][O:8][O:9].[N+:10](=[O:11])[O-:12] 9,10-10; 9,10-9",Room Temperature,Initiation,homolyze
"CCC(C(C)C)O[O:20].[N:10]=O>>CCC(C(C)C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCOC(C(C)O)O[O:20].[N:10]=O>>CCCCOC(C(C)O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
